2140-10-23 21:31:00 Physician Attending Progress Note
Chief Complaint: resp distress, hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   85 y/o with HTN, paroxsymal afib admitted to OSH on [**10-3**] with
   abdominal pain.   He was found to have cecal volvulus requiring a
   laparotomy on [**10-4**] with R hemicolectomy and primary anastmosis.
   Post-operatively he developed afib with RVR, and given dilt and IV
   heparin. Because of an ileus he was given TPN.  He returned to the OR
   on [**10-12**] for an ex-lap with lysis of adhesions, partial colectomy and
   colostomy. The pathology showed mucosal ischmia and a CTA of the abomen
   was unremarkable.  Post operatively he again developed afib with RVR
   and hypotension requiring DC cardioversion. He received pressors
   perioperatively. He was extubated on [**10-14**] then reintubated [**10-19**]
   because of dyspnea and  unresponsiveness. ABG showed CO2 retention. He
   went back into afib during this episode. He was extubated [**10-22**] and
   treated with BiPap until today. He spiked a fever on [**10-21**] with sputum
   culture positive for pseudomonas and was placed on Meropenem. Today,
   his family requested a transfer.
   Currently, he complains of cough but no dyspnea at rest and he denies
   abdominal pain. He has an extremely weak voice since his intubations.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,500 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Respiratory: Cough, Dyspnea, Tachypnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Foley
   Flowsheet Data as of  [**2140-10-23**] 09:31 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 36.3
C (97.4
   HR: 62 (59 - 66) bpm
   BP: 143/59(81) {134/58(77) - 150/65(88)} mmHg
   RR: 22 (15 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 84.3 kg (admission): 85 kg
   Height: 73 Inch
             Total In:
             52 mL
   PO:
             TF:
   IVF:
   52 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,030 mL
   Urine:
   180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -978 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   SpO2: 98%
   ABG: ///31/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Breath Sounds: Crackles : , Rhonchorous: )
   Abdominal: Soft, Non-tender, midline stapled wound
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): x 3,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   505 K/uL
   91 mg/dL
   1.0 mg/dL
   31 mEq/L
   5.4 mEq/L
   32 mg/dL
   101 mEq/L
   142 mEq/L
   30.6 %
   13.4 K/uL
        [image002.jpg]
                             [**2140-10-23**]  07:12 PM
   WBC
   13.4
   Hct
   30.6
   Plt
   505
   Cr
   1.0
   Glucose
   91
   Other labs: PT / PTT / INR:12.9/40.0/1.1, ALT / AST:23/28, Alk Phos / T
   Bili:240/1.3, Differential-Neuts:91.1 %, Lymph:4.9 %, Mono:2.2 %,
   Eos:1.4 %, Albumin:5.1 g/dL, LDH:219 IU/L, Ca++:9.7 mg/dL, Mg++:2.5
   mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
   Respiratory distress / hypoxemia
 suspect combination of hospital
   acquired pneumonia excess volume. Will continue the antibiotics and
   diuresis. I am unable to open his outside films
 these need to be
   uploaded. Awaiting a CXR here.
   A fib with RVR, s/p cardioversion
 recently started on amio, continue
   for now. Also being anti-coagulated with IV heparin.
   Fever / leukocytosis
 possible culprits include respiratory tract
   versus intra-abdominal. Being covered currently for both sources. Also
   on valgan  for oral herpetic lesions
   Bowel ischemia
 original surgery was for volvulus though path from
   second surgery suggested ischemia. Continue supportive care and advance
   diet.
   ICU Care
   Nutrition: TPN
   Glycemic Control:
   Lines:
   PICC Line - [**2140-10-23**] 06:09 PM
   20 Gauge - [**2140-10-23**] 06:10 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2140-10-24 07:36:00 Physician Resident Progress Note
Chief Complaint: Abdominal pain
   24 Hour Events:
 PICC LINE - START [**2140-10-23**] 06:09 PM
 PAN CULTURE - At [**2140-10-23**] 09:39 PM
 EKG - At [**2140-10-23**] 09:40 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2140-10-23**] 10:53 PM
   Infusions:
   Heparin Sodium - 1,650 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-10-24**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 36.4
C (97.6
   HR: 96 (59 - 105) bpm
   BP: 98/59(69) {98/55(64) - 150/74(88)} mmHg
   RR: 21 (15 - 29) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 84.3 kg (admission): 85 kg
   Height: 73 Inch
             Total In:
                                                                    237 mL
                                                                    161 mL
   PO:
                                                                     40 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    197 mL
                                                                    101 mL
   Blood products:
   Total out:
                                                                  1,170 mL
                                                                    490 mL
   Urine:
                                                                    320 mL
                                                                    490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -933 mL
                                                                   -329 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 97%
   ABG: ///29/
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended.
   Staples in place. Abdominal incision clean, dry, intact.
   Extremities: No LE edema
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli
   Labs / Radiology
   513 K/uL
   9.6 g/dL
   96 mg/dL
   1.0 mg/dL
   29 mEq/L
   4.9 mEq/L
   36 mg/dL
   104 mEq/L
   141 mEq/L
   28.9 %
   14.4 K/uL
        [image002.jpg]
                             [**2140-10-23**]  07:12 PM
                             [**2140-10-24**]  01:37 AM
   WBC
   13.4
   14.4
   Hct
   30.6
   28.9
   Plt
   505
   513
   Cr
   1.0
   1.0
   Glucose
   91
   96
   Other labs: PT / PTT / INR:12.9/ 83.7/1.1, ALT / AST:23/28, Alk Phos /
   T Bili:240/1.3, Differential-Neuts:91.1 %, Lymph:4.9 %, Mono:2.2 %,
   Eos:1.4 %, Albumin:5.1 g/dL, LDH:219 IU/L, Ca++:9.6 mg/dL, Mg++:2.4
   mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   80 yo M with HTN, HL, and PAF on coumadin who was originally admitted
   to OSH on [**2140-10-3**] for abdominal pain, found to have cecal volvus in
   OR, s/p bowel resection x2, course complicated by afib with RVR
   requiring cardioversion.
   .
   # Respiratory distress:  resolved.  Pt was intubated for the second
   time for hypercapnia at OSH.  Unsure of circumstances--may have been
   induced by pain medications or tired out from volume overload [**1-25**] afib
   with RVR. Currently breathing comfortably on 3L nc.
   .
   # Afib with RVR:  Currenlty in afib with rate of 100s-110s.  Underwent
   cardioversion on [**10-12**].  Maintained on amiodarone.  Has a history of
   syncope from sig. bradycardia from CCB and BB.
   - cont. amiodarone
   - on heparin gtt
   .
   # Fever, mild leukocytosis:  Known positive cultures include sputum cx
   with pseudomonas and intraoperative wound cultures with ESBL and
   enterococcus.  CT chest from [**10-19**] showed no pulmonary infiltrate.
   - BCx, Ucx, sputum cx
   - Check c. diff
   - cover pseudomonas and ESBL E. coli with meropenam
   - hold on treating enterococcus as now 10 days out from culture
   .
   # Bowel ischemia:  s/p bowel resections x2.  CTA abdomen showed good
   flow in the proximal superior mesenteric artery and flow in the
   inferior mesenteric artery and celiac axis.
   - Evaluated by speech and swallow
   - Advance diet as tolerated
   - hold reglan as having diarrhea
   - Gen [**Doctor First Name 91**] consulted
f/u recs
   .
   # Oral herpes-like lesion:  Viral culture pending.
   - complete course of valacyclovir to [**10-28**]
   .
   # Psych:  Pt transferred on celexa and seroquel.  Does not take these
   at home.
   - cont. celexa for now
   - hold seroquel
   .
   # Hoarseness: likely [**1-25**] intubation. However if doesn
t resolve in [**1-26**]
   days, would consider ENT consult.
   .
   # FEN: IVFs / replete lytes prn / po
f/u S&S recs
   # PPX: heparin gtt
   # ACCESS: PIVs, PICC
   # CODE: FULL CODE
   # CONTACT:  Wife [**Name (NI) 3846**] [**Name (NI) 2956**] is HCP
   # DISPO: ICU for monitoring. Consider call out to floor tomorrow.
   ICU Care
   Nutrition:
   Glycemic Control: Regular insulin sliding scale
   Lines:
   PICC Line - [**2140-10-23**] 06:09 PM
   20 Gauge - [**2140-10-23**] 06:10 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU

2140-10-24 10:02:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   No events O/N
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2140-10-23**] 10:53 PM
   Infusions:
   Heparin Sodium - 1,650 units/hour
   Other ICU medications:
   Other medications:
   Celexa, Acyclovir, Amio 200mg daily
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-10-24**] 10:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 36.2
C (97.1
   HR: 102 (59 - 105) bpm
   BP: 108/68(79) {98/55(64) - 150/74(88)} mmHg
   RR: 31 (15 - 31) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 84.3 kg (admission): 85 kg
   Height: 73 Inch
             Total In:
                                                                    237 mL
                                                                    260 mL
   PO:
                                                                     40 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    197 mL
                                                                    140 mL
   Blood products:
   Total out:
                                                                  1,170 mL
                                                                    640 mL
   Urine:
                                                                    320 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -933 mL
                                                                   -380 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///29/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: Bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   513 K/uL
   96 mg/dL
   1.0 mg/dL
   29 mEq/L
   4.9 mEq/L
   36 mg/dL
   104 mEq/L
   141 mEq/L
   28.9 %
   14.4 K/uL
        [image002.jpg]
                             [**2140-10-23**]  07:12 PM
                             [**2140-10-24**]  01:37 AM
   WBC
   13.4
   14.4
   Hct
   30.6
   28.9
   Plt
   505
   513
   Cr
   1.0
   1.0
   Glucose
   91
   96
   Other labs: PT / PTT / INR:12.9/60.8/1.1, ALT / AST:23/28, Alk Phos / T
   Bili:240/1.3, Differential-Neuts:91.1 %, Lymph:4.9 %, Mono:2.2 %,
   Eos:1.4 %, Albumin:5.1 g/dL, LDH:219 IU/L, Ca++:9.6 mg/dL, Mg++:2.4
   mg/dL, PO4:3.8 mg/dL
   Imaging: CXR - Bilateral effusions and RLL infiltrate.
   Microbiology: Pending. Sputum GS >10 epis, <10 PMN - contaminated.
   Assessment and Plan
   85 y/o with HTN, HLD, Afib admitted with cecal volvulus and subsequent
   complicated hospital stay including reoperation for ischemic bowel and
   adhesions, afib with RVR requiring emergent cardioversion, ARF (now
   resolved), infection, and reintubation for hypercapnea.
   # Hypoxemia: Reitubated for hypercapnea and somnolence, likely related
   to volume overload +/- VAP
 extubated [**10-22**]. Doing well now on NC.
   - Follow sats
   - Continue [**Last Name (un) **] x 8 days for possible Pseudomonas HAP.
   - Diurese as tolerated and obtain TTE results
   - Upload CT scan
   # A fib with RVR: S/p cardioversion. Maintained on amio.  In SR now.
   - Continue amio, heparin gtt
 transition to coumadin
   # Fever / leukocytosis:
   - Meropenem for ESBL E. coli and enterococcus from introp surgical
   culture and PsA.  Plan for 8 days.
   - F/u our cultures
   - Finish course of valganciclovir (until [**10-28**]) for oral herpetic
   lesions
   # Bowel ischemia s/p resection x 2:
   - Sugery consult tomorrow for assistance in managing ischemia/vascular
   issues
   - SLP consult to advance to oral diet when tolerated
   # Hoarseness: Likely [**1-25**] ET tube.
   - Consider ENT consult if doesn
t resolve in next day or two to
   evaluate for damage to vocal cords
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2140-10-23**] 06:09 PM
   20 Gauge - [**2140-10-23**] 06:10 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2140-10-25 07:08:00 Physician Resident Progress Note
Chief Complaint: Abdominal pain
   24 Hour Events:
   Evaluated by surgery yesterday -no surgical issues
   No further issues overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2140-10-25**] 04:20 AM
   Infusions:
   Heparin Sodium - 1,650 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-10-25**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.4
C (97.5
   HR: 91 (62 - 108) bpm
   BP: 114/65(78) {99/52(69) - 124/84(93)} mmHg
   RR: 21 (14 - 31) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 84.3 kg (admission): 85 kg
   Height: 73 Inch
             Total In:
                                                                  1,112 mL
                                                                    389 mL
   PO:
                                                                    460 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    652 mL
                                                                    289 mL
   Blood products:
   Total out:
                                                                  1,345 mL
                                                                    350 mL
   Urine:
                                                                  1,345 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -233 mL
                                                                     39 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   631 K/uL
   10.3 g/dL
   96 mg/dL
   1.0 mg/dL
   29 mEq/L
   4.9 mEq/L
   36 mg/dL
   104 mEq/L
   141 mEq/L
   32.2 %
   11.5 K/uL
        [image002.jpg]
                             [**2140-10-23**]  07:12 PM
                             [**2140-10-24**]  01:37 AM
                             [**2140-10-25**]  05:50 AM
   WBC
   13.4
   14.4
   11.5
   Hct
   30.6
   28.9
   32.2
   Plt
   [**Telephone/Fax (3) 9732**]
   Cr
   1.0
   1.0
   Glucose
   91
   96
   Other labs: PT / PTT / INR:12.9/95.2/1.1, ALT / AST:23/28, Alk Phos / T
   Bili:240/1.3, Differential-Neuts:91.1 %, Lymph:4.9 %, Mono:2.2 %,
   Eos:1.4 %, Albumin:5.1 g/dL, LDH:219 IU/L, Ca++:9.6 mg/dL, Mg++:2.4
   mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   80 yo M with HTN, HL, and PAF on coumadin who was originally admitted
   to OSH on [**2140-10-3**] for abdominal pain, found to have cecal volvus in
   OR, s/p bowel resection x2, course complicated by afib with RVR
   requiring cardioversion.
   .
   # Respiratory distress:  resolved.  Pt was intubated for the second
   time for hypercapnia at OSH.  Unsure of circumstances--may have been
   induced by pain medications or tired out from volume overload [**1-25**] afib
   with RVR. Currently breathing comfortably on 3L nc.
   .
   # Afib with RVR:  Currenlty in afib with rate of 100s-110s.  Underwent
   cardioversion on [**10-12**].  Maintained on amiodarone.  Has a history of
   syncope from sig. bradycardia from CCB and BB.
   - cont. amiodarone
   - on heparin gtt
   .
   # Fever, mild leukocytosis:  Known positive cultures include sputum cx
   with pseudomonas and intraoperative wound cultures with ESBL and
   enterococcus.  CT chest from [**10-19**] showed no pulmonary infiltrate.
   - BCx, Ucx, sputum cx
   - Check c. diff
   - cover pseudomonas and ESBL E. coli with meropenam
   - hold on treating enterococcus as now 10 days out from culture
   .
   # Bowel ischemia:  s/p bowel resections x2.  CTA abdomen showed good
   flow in the proximal superior mesenteric artery and flow in the
   inferior mesenteric artery and celiac axis.
   - Evaluated by speech and swallow
   - Advance diet as tolerated
   - hold reglan as having diarrhea
   - Gen [**Doctor First Name 91**] consulted
f/u recs
   .
   # Oral herpes-like lesion:  Viral culture pending.
   - complete course of valacyclovir to [**10-28**]
   .
   # Psych:  Pt transferred on celexa and seroquel.  Does not take these
   at home.
   - cont. celexa for now
   - hold seroquel
   .
   # Hoarseness: likely [**1-25**] intubation. However if doesn
t resolve in [**1-26**]
   days, would consider ENT consult.
   .
   # FEN: IVFs / replete lytes prn / po
f/u S&S recs
   # PPX: heparin gtt
   # ACCESS: PIVs, PICC
   # CODE: FULL CODE
   # CONTACT:  Wife [**Name (NI) 3846**] [**Name (NI) 2956**] is HCP
   # DISPO: ICU for monitoring. Consider call out to floor tomorrow.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2140-10-23**] 06:09 PM
   20 Gauge - [**2140-10-23**] 06:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2140-10-25 10:29:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - S/p surgery consult - no surgical issues
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2140-10-25**] 04:20 AM
   Infusions:
   Heparin Sodium - 1,500 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-10-25**] 10:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.3
C (97.4
   HR: 95 (62 - 108) bpm
   BP: 108/67(77) {99/52(69) - 124/84(93)} mmHg
   RR: 20 (14 - 29) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 84.3 kg (admission): 85 kg
   Height: 73 Inch
             Total In:
                                                                  1,112 mL
                                                                    473 mL
   PO:
                                                                    460 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    652 mL
                                                                    373 mL
   Blood products:
   Total out:
                                                                  1,345 mL
                                                                    350 mL
   Urine:
                                                                  1,345 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -233 mL
                                                                    124 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///29/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   10.3 g/dL
   631 K/uL
   96 mg/dL
   0.9 mg/dL
   29 mEq/L
   4.4 mEq/L
   38 mg/dL
   103 mEq/L
   142 mEq/L
   32.2 %
   11.5 K/uL
        [image002.jpg]
                             [**2140-10-23**]  07:12 PM
                             [**2140-10-24**]  01:37 AM
                             [**2140-10-25**]  05:50 AM
   WBC
   13.4
   14.4
   11.5
   Hct
   30.6
   28.9
   32.2
   Plt
   [**Telephone/Fax (3) 9732**]
   Cr
   1.0
   1.0
   0.9
   Glucose
   91
   96
   96
   Other labs: PT / PTT / INR:14.0/119.4/1.2, ALT / AST:23/28, Alk Phos /
   T Bili:240/1.3, Differential-Neuts:91.1 %, Lymph:4.9 %, Mono:2.2 %,
   Eos:1.4 %, Albumin:5.1 g/dL, LDH:219 IU/L, Ca++:9.2 mg/dL, Mg++:2.3
   mg/dL, PO4:2.7 mg/dL
   Imaging: No new imaging.
   Microbiology: No new micro data.
   Assessment and Plan
   85 y/o with HTN, HLD, Afib admitted with cecal volvulus and subsequent
   complicated hospital stay including reoperation for ischemic bowel and
   adhesions, afib with RVR requiring emergent cardioversion, ARF (now
   resolved), infection, and reintubation for hypercapnea.
   # Hypoxemia: Reitubated for hypercapnea and somnolence, likely related
   to volume overload +/- VAP
 extubated [**10-22**]. Doing well now on NC.
   - Follow sats
   - Continue [**Last Name (un) **] x 8 days for possible Pseudomonas HAP.
   - Diurese as tolerated and obtain TTE results
   - Upload CT scan
   # A fib with RVR: S/p cardioversion. Maintained on amio.  In SR now.
   - Continue amio, heparin gtt
 transition to coumadin
   # Fever / leukocytosis:
   - Meropenem for ESBL E. coli and enterococcus from introp surgical
   culture and PsA.  Plan for 8 days.
   - F/u our cultures
   - Finish course of valganciclovir (until [**10-28**]) for oral herpetic
   lesions
   # Bowel ischemia s/p resection x 2:
   - Sugery consult tomorrow for assistance in managing ischemia/vascular
   issues
   - SLP consult to advance to oral diet when tolerated
   # Hoarseness: Likely [**1-25**] ET tube.
   - Consider ENT consult if doesn
t resolve in next day or two to
   evaluate for damage to vocal cords
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2140-10-23**] 06:09 PM
   20 Gauge - [**2140-10-23**] 06:10 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 25 minutes